US04971982
1.32 g of 3,4-dihydro-2,2-dimethyl-4-(2-pyridyl)-2H-1-benzopyran were dissolved in 20 ml of acetonitrile and 0.73 g of nitronium tetrafluoroborate was added at room temperature. After 1 hour the mixture was poured into water and extracted with ethyl acetate. The organic extract was washed with sodium chloride solution, dried over sodium sulphate and evaporated to give an oil. This oil was chromatographed on silica gel using ethyl acetate/petroleum ether (1:4) for the elution. 245 mg of 3,4-dihydro-2,2-dimethyl-6 -nitro-4-(2-pyridyl)-2H-1-benzopyran were obtained in the form of an oil.

reactant | 3,4-dihydro-2,2-dimethyl-4-(2-pyridyl)-2H-1-benzopyran | 1.32 g | CC1(OC2=C(C(C1)C1=NC=CC=C1)C=CC=C2)C | C16H17NO
reactant | nitronium tetrafluoroborate | 0.73 g | F[B-](F)(F)F.O=[N+]=O
reactant | water | O | H2O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 3,4-dihydro-2,2-dimethyl-6 -nitro-4-(2-pyridyl)-2H-1-benzopyran | 245 mg | CC1(OC2=C(C(C1)C1=NC=CC=C1)C=C(C=C2)[N+](=O)[O-])C | C16H16N2O3
